US09340556B2
To the solution of 5-chloro-6,7-dimethoxy-3,4-dihydroisoquinolin-1(2H)-one (700 mg, 2.90 mmol) in dichloromethane (DCM) (2 mL) at −78° C. was added borontribromide (0.821 mL, 8.69 mmol). Mixture was allowed to warm up to room temperature and stirred at room temperature for 1 hour. Mixture was diluted with methanol and stripped several times to give 5-chloro-6,7-dihydroxy-3,4-dihydroisoquinolin-1(2H)-one (619 mg, 2.90 mmol, 100% yield) LCMS (M+H)+: 214.0

reactant | 5-chloro-6,7-dimethoxy-3,4-dihydroisoquinolin-1(2H)-one | 2.90 mmol, 700 mg | ClC1=C2CCNC(C2=CC(=C1OC)OC)=O | C11H12ClNO3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 5-chloro-6,7-dihydroxy-3,4-dihydroisoquinolin-1(2H)-one | 2.90 mmol, 619 mg, 100% yield | ClC1=C2CCNC(C2=CC(=C1O)O)=O | C9H8ClNO3
